US05210198
Stage b) Preparation of 2-(2,4-dichlorophenyl)-2-chloromethyltetrahydrofuran-4-one
The oily residue obtained in stage a) is then heated in toluene (100 cc) and butanol (200 cc) in the presence of paratoluenesulphonic acid (0.5 g), with the separation of the water formed. After evaporating the reaction medium, the residue is chromatographed on a silica column (40:60 ethyl acetate/heptane eluant) to obtain a colourless oil (14.5 g) corresponding to a mixture of alcohol diastereoisomers, namely 2-(2,4-dichlorophenyl)-4-hydroxy-2-chloromethyltetrahydrofuran. This product is directly oxidized with chromic anhydride in acetic acid to obtain, after purification by silica column chromatography, furanone in the form of white crystals, m.p. 99° C.

reactant | 2-(2,4-dichlorophenyl)-4-hydroxy-2-chloromethyltetrahydrofuran | ClC1=C(C=CC(=C1)Cl)C1(OCC(C1)O)CCl | C11H11Cl3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,4-dichlorophenyl)-2-chloromethyltetrahydrofuran-4-one | ClC1=C(C=CC(=C1)Cl)C1(OCC(C1)=O)CCl | C11H9Cl3O2
